US04071680
5'-Deoxy-5'-Iodo-5-Fluorocytidine
A solution of 5'-deoxy-5'-iodo-2',3'-O-isopropylidene-5-fluorocytidine (20 g) in trifluoroacetic acid/water (9:1, 100 ml) was stored at room temperature for 70 min. The solution was evaporated to dryness, co-evaporated with ethanol (2 × 200 ml) and dissolved in ethyl acetate (200 ml). Triethylamine was added to neutrality, and after storage overnight the crystals were collected and dried. Yield = 16.8 g (93%).

reactant | 5'-deoxy-5'-iodo-2',3'-O-isopropylidene-5-fluorocytidine | 20 g | CC1(O[C@H]2[C@H](O[C@H](C2O1)N3C=C(C(=NC3=O)N)F)CI)C | C12H15FIN3O4
solvent | trifluoroacetic acid water | 100 ml | FC(C(=O)O)(F)F.O
product | 5'-Deoxy-5'-Iodo-5-Fluorocytidine | IC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N=C(N)C(=C1)F)O)O | C9H11FIN3O4
